US06613718B2
3-Chloro-2-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyridine (Compound no. 6-1)
To a solution of 2-chloro-5-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-fluorophenol (0.5 g) and 2-chloropyrimidine (0.25 g),in a mixed solvent of 2-butanone:dimethylsulfoxide (1:4) (50 ml) was added potassium carbonate (0.35 g) at room temperature. After addition, the mixture was heated at reflux for 12 hours under a nitrogen atmosphere. The mixture was allowed to cool to room temperature and partitioned between ethyl acetate and brine. The organic phase was washed with brine (×2) and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by column chromatography on silica gel (eluent, ethyl acetate:hexane, 2:1) to give the desired compound (0.47 g).

reactant | 2-chloro-5-(3-chloro-4,5,6,7-tetrahydropyrazolo[1,5-a]pyridin-2-yl)-4-fluorophenol | 0.5 g | ClC1=C(C=C(C(=C1)F)C1=NN2C(CCCC2)=C1Cl)O | C13H11Cl2FN2O
reactant | 2-chloropyrimidine | 0.25 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | potassium carbonate | 0.35 g | C([O-])([O-])=O.[K+].[K+]
solvent | 2-butanone dimethylsulfoxide | 50 ml | CC(CC)=O.CS(=O)C
product | 3-Chloro-2-[4-chloro-2-fluoro-5-(2-pyrimidinyloxy)phenyl]-4,5,6,7-tetrahydro-pyrazolo[1,5-a]pyridine | 0.47 g | ClC=1C(=NN2C1CCCC2)C2=C(C=C(C(=C2)OC2=NC=CC=N2)Cl)F | C17H13Cl2FN4O
